US04621084
To a solution of potassium hydroxide (0.67 g) and carbondisulfide (0.91 g) in a mixture of water (1.5 ml) and ethanol (50 ml) was added 7-methyl-2-(3-amino-4-hydroxyphenyl)imidazo[1,2-a]pyridine (2.4 g) and the mixture was refluxed for 5 hours under stirring. To the reaction mixture was added a solution of 2-chloromethylpyridine hydrochloride (4.9 g) and potassium carbonate (3.8 g) in a mixture of water (5 ml) and ethanol (20 ml) at ambient temperature and the resultant mixture was stirred for 3 hours. The precipitate collected by filtration, was suspended in a mixture of water, tetrahydrofuran and ethyl acetate and the mixture was adjusted to pH 11 with 20% potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo to afford a crystalline residue, which was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 5-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-(pyridin-2-ylmethylthio)benzoxazole (1.6 g). mp. 184°-185° C. (dec.).

reactant | potassium hydroxide | 0.67 g | [OH-].[K+]
reactant | 7-methyl-2-(3-amino-4-hydroxyphenyl)imidazo[1,2-a]pyridine | 2.4 g | CC1=CC=2N(C=C1)C=C(N2)C2=CC(=C(C=C2)O)N | C14H13N3O
reactant | 2-chloromethylpyridine hydrochloride | 4.9 g | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbondisulfide | 0.91 g | C(=S)=S | CS2
solvent | water | 1.5 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-(pyridin-2-ylmethylthio)benzoxazole | 1.6 g | CC1=CC=2N(C=C1)C=C(N2)C=2C=CC1=C(N=C(O1)SCC1=NC=CC=C1)C2 | C21H16N4OS
